US07893267B2
To a stirring solution 0.5 g (2.4 mmol) of 6-bromo-pyridine-2-carboxylic acid, 0.05 g (0.07 mmol) of dichlorobis(triphenylphosphine)-palladium(II), and 0.015 g (0.07 mmol) of copper (I) iodide in 10 mL of NEt3, 9.9 mL of 2 N Na2CO3 solution was added 0.38 g (3.7 mmol) of phenyl acetylene under nitrogen. After 12 h reflux under nitrogen, the reaction mixture was cooled and filtered. The filtrate was acidified using 2 N HCl (pH=5), and the resulting white precipitate was filtered, washed with water and dried to afford 0.5 g (51%) of 6-phenylethynyl-pyridine-2-carboxylic acid. LCMS: 224 (M+1)+.

reactant | 6-bromo-pyridine-2-carboxylic acid | 2.4 mmol, 0.5 g | BrC1=CC=CC(=N1)C(=O)O | C6H4BrNO2
reactant | phenyl acetylene | 3.7 mmol, 0.38 g | C1(=CC=CC=C1)C#C | C8H6
solvent | NEt3 | 10 mL | CCN(CC)CC | C6H15N
solvent | Na2CO3 | 2 N, 9.9 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | dichlorobis(triphenylphosphine)-palladium(II) | 0.07 mmol, 0.05 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.07 mmol, 0.015 g | [Cu]I
product | 6-phenylethynyl-pyridine-2-carboxylic acid | 0.5 g, 51% | C1(=CC=CC=C1)C#CC1=CC=CC(=N1)C(=O)O | C14H9NO2
